US08864894B2
3.0 g of pyridine and 18 g of ethyl acetate were charged into a 100 mL flask to be dissolved. While stirring the resultant mixed solution with a magnetic stirrer, to the mixed solution, a solution in which 11.3 g of trimethoxysilylpropyl chloride was dissolved in 24 g of ethyl acetate was gradually added at room temperature in a nitrogen atmosphere. The reaction mixture was refluxed over 3 days and therefrom, ethyl acetate was distilled off under reduced pressure. The resultant concentrate was dropped into 100 mL of diethyl ether and therefrom, pyridine and trimethoxysilylpropyl chloride as by-products were removed. This purification was repeated three times and then remaining diethyl ether was distilled off under reduced pressure, followed by dissolving the resultant concentrate in methanol to obtain a 30% methanol solution of trimethoxysilylpropylpyridinium chloride.

reactant | pyridine | 3.0 g | N1=CC=CC=C1 | C5H5N
reactant | trimethoxysilylpropyl chloride | 11.3 g | CO[Si](OC)(OC)CCCCl | C6H15ClO3Si
solvent | ethyl acetate | 24 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 18 g | C(C)(=O)OCC | C4H8O2
product | trimethoxysilylpropylpyridinium chloride | [Cl-].CO[Si](OC)(OC)CCC[N+]1=CC=CC=C1 | InChI=1S/C11H20NO3Si.ClH/c1-13-16(14-2,15-3)11-7-10-12-8-5-4-6-9-12;/h4-6,8-9H,7,10-11H2,1-3H3;1H/q+1;/p-1
